US05889012
4-(2-Hydroxy-1,1,1 -trifluoro-2-propyl)cyclohexanone
18.8 g (0.089 mol) of 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)cyclohexanol were placed in a mixture of 350 ml of acetone and 20 ml of water, and 50 ml of Jones' reagent were added dropwise at from 10° to 15° C. The mixture was subsequently stirred at room temperature for 1 hour, 10 ml of isopropanol were added, and after a further 30 minutes the mixture was neutralized with 40 g of sodium bicarbonate. It was then filtered, the filtrate was concentrated and the residue was taken up with water/diethyl ether. After drying and concentration of the organic phase, 11.1 g (59.6% of theory) remained of a colorless product.

reactant | 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)cyclohexanol | 0.089 mol, 18.8 g | OC(C(F)(F)F)(C)C1CCC(CC1)O | C9H15F3O2
reactant | Jones' reagent | 50 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
reactant | sodium bicarbonate | 40 g | C([O-])(O)=O.[Na+]
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | 4-(2-Hydroxy-1,1,1 -trifluoro-2-propyl)cyclohexanone | OC(C(F)(F)F)(C)C1CCC(CC1)=O | C9H13F3O2
